US04963677
(a) 7-Isothiocyanato-3,4-dihydro-2(1H)quinolone
To a suspension containing 5,4 g of 7-amino-3,4-dihydro-2(1H)quinolone in 70 ml of water was added while stirring and cooling (0° C.) 4.0 ml of thiophosgene. Stirring was continued for 45 min at room temperature and product filtered and washed with water. Yield 5.8 g (87%).

reactant | 7-amino-3,4-dihydro-2(1H)quinolone | 5,4 g | NC1=CC=C2CCC(NC2=C1)=O | C9H10N2O
reactant | thiophosgene | 4.0 ml | C(=S)(Cl)Cl | CCl2S
solvent | water | 70 ml | O | H2O
product | 7-Isothiocyanato-3,4-dihydro-2(1H)quinolone | N(=C=S)C1=CC=C2CCC(NC2=C1)=O | C10H8N2OS
